* TB: PGA OTA Transient Step Response — Slew rate (large-signal)
* 500mV step to force current-limited slewing
.lib "../sky130_minimal.lib.spice" tt
.include "ota_pga.spice"

Vdd vdd 0 dc 1.8
Vbn  vbn  0 dc 0.65
Vbcn vbcn 0 dc 0.88
Vbp  vbp  0 dc 0.73
Vbcp vbcp 0 dc 0.475

* 500mV step: 0.5V to 1.0V at t=10us, unity-gain feedback
Vinp vinp 0 PULSE(0.5 1.0 10u 1n 1n 50u 100u)
Xota vinp vout vout vdd 0 vbn vbcn vbp vbcp ota_pga
CL vout 0 10p

.tran 10n 80u

.control
run

* Compute derivative vector, then measure its max during slewing window
let dvdt = deriv(v(vout))
meas tran sr_meas MAX dvdt FROM=10.01u TO=35u

echo "sr_meas = $&sr_meas"

* Two-crossing method as backup
meas tran t_low WHEN v(vout)=0.7 RISE=1
meas tran t_high WHEN v(vout)=0.9 RISE=1

echo "t_low = $&t_low"
echo "t_high = $&t_high"
echo "v_low = 0.7"
echo "v_high = 0.9"

* 10-90% fallback
meas tran v_before FIND v(vout) AT=9.9u
meas tran v_after FIND v(vout) AT=60u

let step = v_after - v_before
let v_10 = v_before + 0.1 * step
let v_90 = v_before + 0.9 * step

meas tran t10 WHEN v(vout)=$&v_10 RISE=1
meas tran t90 WHEN v(vout)=$&v_90 RISE=1

echo "t10 = $&t10"
echo "t90 = $&t90"
echo "v_before = $&v_before"
echo "v_after = $&v_after"

quit
.endc
.end
